US05445762
7,13-Bis(1-adamantylcarbonyl)- 1,4,10-trioxa-7,13-diazacyclopentadecane
Analogously to Example 2 from 1,4,10-trioxa-7,13-diazacyclopentadecane and 1-adamantylcarbonyl chloride.

reactant | 1,4,10-trioxa-7,13-diazacyclopentadecane | O1CCOCCNCCOCCNCC1 | C10H22N2O3
reactant | 1-adamantylcarbonyl chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
product | 7,13-Bis(1-adamantylcarbonyl)- 1,4,10-trioxa-7,13-diazacyclopentadecane | C12(CC3CC(CC(C1)C3)C2)C(=O)N2CCOCCOCCN(CCOCC2)C(=O)C23CC1CC(CC(C2)C1)C3 | C32H50N2O5
